US05932595
A solution of 660 mg (1.45 mmol) of 4-[4-(4-bromophenoxy)phenylsulfonylmethyl]-tetrahydropyran-4 -carboxylic acid in 80% ethanol/tetrahydropyran (40 mL) was hydrogenated at atmospheric pressure for 14 hours using palladium on carbon catalyst, filtered over a celite pad washing with methylene chloride and concentrated in vacuo to afford 4-[4-phenoxyphenylsulfonylmethyl]-tetrahydropyran-4-carboxylic acid as a light orange solid (546 mg, 100%), which was taken directly into the next reaction without further purification: mp 162.5-165.3° C.; IR (KBr) 3431 (br), 1727 cm-1 ; 1HNMR (DMSO-d6) δ 1.67 (ddd, J=14.1, 10.0, 4.0 Hz, 2H), 1.95 (dm, J=14.1 Hz, 2H), 3.47 (mc, 2H), 3.65 (mc, 2H), 3.66 (s, 2H), 7.15 (d, J=8.8 Hz, 2H), 7.27 (t, J=7.4 Hz, 1H), 7.45 (t, J=7.5 Hz, 2H), 7.86 (d, J=7.9 Hz, 2H), 12.74 (s, 1H); 13C NMR (DMSO-d6) δ 32.88 (t), 42.26 (s), 61.75 (t), 63.26 (t), 117.64 (d), 120.11 (d), 125.03 (d), 130.04 (d), 130.39 (s), 134.69 (s), 154.69 (s), 161.53 (s), 174.39 (s); FABHRMS Calcd for C19H21SO6 (M+ +H): 377.1059. Found: 378.1064. Anal. Calcd. for C19H20SO6.0.75H2O: C, 58.52; H, 5.56. Found: C, 58.54; H, 5.19.

reactant | 4-[4-(4-bromophenoxy)phenylsulfonylmethyl]-tetrahydropyran-4 -carboxylic acid | 1.45 mmol, 660 mg | BrC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)CC2(CCOCC2)C(=O)O)C=C1 | C19H19BrO6S
solvent | ethanol tetrahydropyran | 40 mL | C(C)O.O1CCCCC1
catalyst | palladium on carbon | [Pd] | Pd
product | 4-[4-phenoxyphenylsulfonylmethyl]-tetrahydropyran-4-carboxylic acid | 546 mg, 100% | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)CC1(CCOCC1)C(=O)O | C19H20O6S
